US06207857B1
a) 4-Oxo-undecanoic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester
A solution of 43.79 g acetic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester in 200 ml of THF was cooled to −70° C. A solution of 27.16 g potassium-tert-butoxide in 200 ml of THF was added at −70° C. during 20 min. and the resulting reaction mixture was stirred for 90 min. at the same temperature. Then a solution of 53.00 g 4-oxo-undecanoyl chloride in 200 ml of THF was dropped in and the reaction mixture was stirred for another 2.5 hours at −70° C. Then the reaction mixture was diluted with ether, washed with saturated NaHCO3 and brine. The organic phase was dried, filtered and evaporated to dryness. The residue was thin-layer distilled and purified by chromatography to yield 25.73 g of a yellow oil.

reactant | acetic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester | 43.79 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=COC(C)=O)C | C16H22O2
reactant | potassium-tert-butoxide | 27.16 g | CC(C)([O-])C.[K+]
reactant | 4-oxo-undecanoyl chloride | 53.00 g | O=C(CCC(=O)Cl)CCCCCCC | C11H19ClO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-Oxo-undecanoic acid 3-(4-tert-butyl-phenyl)-2-methyl-propenyl ester | 25.73 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=COC(CCC(CCCCCCC)=O)=O)C | C25H38O3
